US06489344B1
1. Preparation of 2-(2-aminoethyl)amino-6-amino-5-nitropyridine
A mixture of 2-amino-6-chloro-3-nitropyridine (0.52 M) in acetonitrile (70 ml), and ethylene diamine (40 ml) were stirred overnight (ca. 20 h) at 75-80° C. under argon. The ethylene diamine was removed under reduced pressure. The residual solution was basified with 1M sodium hydroxide solution (50 ml). The aqueous solution was saturated with sodium chloride and extracted with a solution of 95% ethyl acetate and 5% methanol (3×150 ml) and with a solution of 95% acetonitrile and 5% methanol (3×150 ml). The organic extracts were combined and extracted with a saturated sodium chloride solution (2×75 ml). The organic layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure. The crude yellow solid was triturated with ether (2×25 ml) and dried overnight in vacuo resulting in 2-(2-aminoethyl)amino-6-amino-5-nitropyridine in 99% yield.

reactant | 2-amino-6-chloro-3-nitropyridine | 0.52 M | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | ethylene diamine | 40 ml | C(CN)N | C2H8N2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-(2-aminoethyl)amino-6-amino-5-nitropyridine | 99% yield | NCCNC1=NC(=C(C=C1)[N+](=O)[O-])N | C7H11N5O2
